US06388092B2
40A. [4-(3-Chloro-phenyl)-2-methoxy-quinolin-6-yl]-(5-chloro-thiophen-2-yl)-methanone
To a solution of 6-bromo-4-(3-chloro-phenyl)-2-methoxy-quinoline (500 mg, 1.43 mmol) in THF (2 ml) was added n-buthyl lithium (2.5 M in hexane, 0.63 ml, 1.58 mmol) dropwise at −78° C. under an atmosphere of dry N2. After stirring at −78° C. for 30 minutes, a solution of 5-chloro-thiophene-2-carboxylic acid methoxy-methyl-amide (440 mg, 2.15 mmol) in THF (1 ml) was added. The reaction mixture was allowed to warm to ambient temperature and stirred for 15 hours. To the mixture was added a saturated aqueous solution of ammonium chloride at 0° C. THF was removed from the resulting heterogeneous solution. The aqueous mixture was extracted with chloroform (CHCl3). The organic layer was washed with brine, dried over MgSO4 and concentrated under vacuum to yield the crude product. It was chromatographed on silica gel with MeOH-CHCl3NH4OH (2:98:0.2 to 5:95:0.5) as eluents to afford the title compound of example 40A (273.5 mg, 46% yield).

reactant | 6-bromo-4-(3-chloro-phenyl)-2-methoxy-quinoline | 1.43 mmol, 500 mg | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)Cl | C16H11BrClNO
reactant | lithium | 1.58 mmol, 2.5 M, 0.63 ml | [Li] | Li
reactant | 5-chloro-thiophene-2-carboxylic acid methoxy-methyl-amide | 2.15 mmol, 440 mg | CON(C(=O)C=1SC(=CC1)Cl)C | C7H8ClNO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | [4-(3-Chloro-phenyl)-2-methoxy-quinolin-6-yl]-(5-chloro-thiophen-2-yl)-methanone | 273.5 mg, 46% yield | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(=O)C=1SC(=CC1)Cl)OC | C21H13Cl2NO2S
